US07179830B2
f) 4-Chloro-3-trifluoroacetylaminothiophene
was obtained by adding 2.29 g of trifluoroacetic anhydride to a solution of 2 g of 3-amino-4-chlorothiophene and 4.54 g of triethylamine in 40 ml of anhydrous THF.

reactant | trifluoroacetic anhydride | 2.29 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-amino-4-chlorothiophene | 2 g | NC1=CSC=C1Cl | C4H4ClNS
reactant | triethylamine | 4.54 g | C(C)N(CC)CC | C6H15N
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-Chloro-3-trifluoroacetylaminothiophene | ClC=1C(=CSC1)NC(C(F)(F)F)=O | C6H3ClF3NOS
